US07598243B2
A cooled (0° C.) solution of Boc-isonipecotic acid (5.97 g, 26.0 mmol) and Meldrum's acid (3.75 g, 26.0 mmol) in DMF (54 mL) was treated dropwise with diethyl cyanophosphonate (4.34 mL, 28.6 mmol) and triethylamine (11.2 mL, 80.7 mmol). After stirring at 0° C. for an additional 30 min the reaction mixture was permitted to warm to rt and stir over 3 days. The reaction mixture was concentrated under reduced pressure and ether and 1N HCl solution were added. The aqueous layer was extracted again with ether and the ethereal layers were combined and washed with 1N HCl solution, twice with water, and lastly with brine. He ethereal layer was then dried over anhydrous MgSO4, filtered, and concentrated to give tert-butyl 4-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)(hydroxy)methyl]piperidine-1-carboxylate which contained approximately 10% of Boc-isonipecotic acid.

reactant | Boc-isonipecotic acid | 26.0 mmol, 5.97 g | C(=O)(OC(C)(C)C)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | Meldrum's acid | 26.0 mmol, 3.75 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | diethyl cyanophosphonate | 28.6 mmol, 4.34 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 80.7 mmol, 11.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 54 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)(hydroxy)methyl]piperidine-1-carboxylate | CC1(OC(C(C(O1)=O)=C(C1CCN(CC1)C(=O)OC(C)(C)C)O)=O)C | C17H25NO7
